US04451462
A mixture of 18.2 g (0.1 mole) of 4-methyl-3-(3-oxobutyl)-maleic acid anhydride and 23.2 g (0.105 mole) of hexahydroazepinium benzoate in 400 ml of benzene is heated under reflux for 48 hours using a water separator. The benzene is removed in vacuo and the residue remaining is partitioned between methylene chloride and saturated sodium bicarbonate solution. The crude product remaining after drying and after removal of the methylene chloride is chromatographed over silica gel with petroleum ether/ether. Subsequent recrystallisation from ether/petroleum ether yields 6-(hexahydroazepin-1-yl)-3-methylbenzofuran-2(3H)-one having a melting point of 57°-59° C.

reactant | hexahydroazepinium benzoate | 0.105 mole, 23.2 g | C(C1=CC=CC=C1)(=O)[O-].[NH2+]1CCCCCC1
reactant | water | O | H2O
reactant | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | 6-(hexahydroazepin-1-yl)-3-methylbenzofuran-2(3H)-one | N1(CCCCCC1)C1=CC2=C(C(C(O2)=O)C)C=C1 | C15H19NO2
